US06355642B1
6-Methoxy-2a-(4-bromobutyl)-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one
A 16 ml portion of methanol solution of 6-acetoxy-2a-(4-bromobutyl)-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one (0.60 g, 1.64 mmol) was mixed with sodium methoxide and stirred at a room temperature for 3 hours. After neutralization of the reaction solution with an ion exchange resin Amberlite 15, the resin was removed by filtration and the solvent was evaporated under a reduced pressure. The thus obtained oily substance was dissolved in 4 ml of acetone, and the solution was mixed with 2 ml of methyl iodide and 2 ml of potassium carbonate aqueous solution and stirred overnight at room temperature. The reaction solution was extracted with ethyl acetate and washed with 1 N hydrochloric acid. After drying (Na2SO4), the solvent was evaporated under a reduced pressure, and the thus obtained oily substance was purified by a silica gel column chromatography (100 cc; elution with ethyl acetate-hexane=1:2) to obtain 0.31 g of the title compound (56% in yield).

reactant | 6-acetoxy-2a-(4-bromobutyl)-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one | 1.64 mmol, 0.60 g | C(C)(=O)OC1=C2C=3C(C(NC3C=C1)=O)(CCC2)CCCCBr | C17H20BrNO3
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 6-Methoxy-2a-(4-bromobutyl)-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one | 0.31 g, 56% | COC1=C2C=3C(C(NC3C=C1)=O)(CCC2)CCCCBr | C16H20BrNO2
